US07858800B2
1) Production of 5-ethoxy-1-phenyl-1H-[1,2,3]-triazole
The azide substance prepared in 1) of Example 7 and (trimethylsilyl)ethoxyacetylene were dissolved in 3.0 ml of toluene and the solution was stirred for one night under heating to reflux. After the reaction solution was cooled down to room temperature, the residue was separate and purified by a silica gel column chromatography (hexane/ethyl acetate=1/1) to give 98 mg of the title compound.

reactant | azide | [N-]=[N+]=[N-]
reactant | (trimethylsilyl)ethoxyacetylene | C[Si](C)(C)CCOC#C | C7H14OSi
reactant | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
product | 5-ethoxy-1-phenyl-1H-[1,2,3]-triazole | 98 mg | C(C)OC1=CN=NN1C1=CC=CC=C1 | C10H11N3O
